2171-12-26 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Dyspnea-  multifactorial secondary to large right
   sided pulmonary embolism, large right sided pleural effusion, right
   lung collapse
   24 Hour Events:
   -Bilateral LENI's
   -Heparin stopped at 5am
   -Weaned to nasal cannula
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2171-12-25**] 08:00 AM
   Heparin Sodium - [**2171-12-25**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea, No(t) Wheeze
   Flowsheet Data as of  [**2171-12-26**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 96 (88 - 107) bpm
   BP: 131/77(90) {100/39(61) - 164/108(112)} mmHg
   RR: 30 (21 - 46) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,288 mL
                                                                     60 mL
   PO:
             TF:
   IVF:
                                                                  1,288 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    138 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, Paradoxical),
   (Percussion: Dullness : Right), (Breath Sounds: Wheezes : Left,
   Diminished: Right)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   person, place, time, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   297 K/uL
   12.7 g/dL
   178 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   136 mEq/L
   36.4 %
   13.2 K/uL
        [image002.jpg]
                            [**2171-12-25**]  04:22 AM
                            [**2171-12-26**]  04:11 AM
   WBC
   13.2
   13.2
   Hct
   39.2
   36.4
   Plt
   280
   297
   Cr
   0.6
   0.6
   TropT
   <0.01
   Glucose
   183
   178
   Other labs: PT / PTT / INR:14.3/102.9/1.2, CK / CKMB /
   Troponin-T:23//<0.01, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ANXIETY
 CANCER (MALIGNANT NEOPLASM), LUNG
 DYSPNEA (SHORTNESS OF BREATH)
 PLEURAL EFFUSION, ACUTE
 PULMONARY EMBOLISM (PE), ACUTE
   Assessment and Plan: 61 year old female with a history of type II
   diabetes, hypertension and recently diagnosed stage IIIb to IV
   non-small cell lung cancer who presents with three days of progressive
   dyspnea found to have large right sided pulmonary embolism, pleural
   effusion and right sided collapse.
   Dyspnea:  Likely multifactorial secondary to large right sided
   pulmonary embolism, large right sided pleural effusion, right lung
   collapse.  All findings not present on previous CT scan from late
   [**Month (only) **] when she was diagnosed.  No signs and symptoms of infection
   presently.  Lymphangitic spread of tumor may also be contributing to
   her symptoms. Given the acuity of her presentation suspect a large
   component is related to acute infarction. No indications for lysis at
   this time given that she is hemodynamically stable and BNP and
   troponins are within normal limits.
   - heparin started becasuse Lovenox contraindication, was stopped d/t PT
   of 130.  Will restart pending recs from IP
   - thoracentesis stopped
   - echocardiogram in AM
   - oncology consult in AM
   - wean oxygen as tolerated
   Non-small cell lung cancer:  Patient was scheduled to initiate
   chemotherapy shortly.  Now presents with dyspnea, large effusion and
   pulmonary embolism.
   - oncology consult in AM
   Hypertension:
   - holding all antihypertensive agents
   Diabetes:
   - insulin sliding scale
   Hyperlipidemia:
   - continue simvastatin
   FEN: No IVF, replete electrolytes, cardiac, diabetic diet
   Prophylaxis: lovenox
   Access: peripherals
   Code:  Full
   Communication: Patient, Husband [**Name (NI) 366**] [**Telephone/Fax (1) 9246**]
   [**Name2 (NI) 1531**]osition: pending clinical improvement

2171-12-26 10:34:00 Physician Attending Progress Note
Chief Complaint: Pulmonary Embolism, Pleural Effusion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Down to 4L nasal cannula overnight .  Still feeling quite short of
   breath.
   24 Hour Events:
 ULTRASOUND - At [**2171-12-25**] 01:30 PM
   bilateral lenis
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2171-12-25**] 03:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-12-26**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 102 (88 - 107) bpm
   BP: 137/88(98) {100/39(61) - 164/108(112)} mmHg
   RR: 34 (21 - 46) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,288 mL
                                                                     60 mL
   PO:
             TF:
   IVF:
                                                                  1,288 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    138 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   R > L, Diminished: on right [**3-19**] way up)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   297 K/uL
   178 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   136 mEq/L
   36.4 %
   13.2 K/uL
        [image002.jpg]
                            [**2171-12-25**]  04:22 AM
                            [**2171-12-26**]  04:11 AM
   WBC
   13.2
   13.2
   Hct
   39.2
   36.4
   Plt
   280
   297
   Cr
   0.6
   0.6
   TropT
   <0.01
   Glucose
   183
   178
   Other labs: PT / PTT / INR:14.3/102.9/1.2, CK / CKMB /
   Troponin-T:23//<0.01, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ANXIETY
 CANCER (MALIGNANT NEOPLASM), LUNG
 DYSPNEA (SHORTNESS OF BREATH)
 PLEURAL EFFUSION, ACUTE
 PULMONARY EMBOLISM (PE), ACUTE
   61 yo woman newly dx
d NSCLCA with large R-sided effusion and PE.
   1.       PE: Heparin
 hold in anticipation of thoracentesis today
   2.       R-sided effusion: Thoracentesis.  Sending fluid for cytology.
   Remainder of issue per ICU team.  Anticipate call out to OMED if doing
   well post-thoracentesis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-12-25**] 02:03 AM
   20 Gauge - [**2171-12-25**] 02:04 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 31 minutes
   Pt is critically ill.

2171-12-27 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pleural effusions and PE causing dyspnea
   24 Hour Events:
   -Thoracentesis
   -Heparin drip restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-12-27**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 96 (95 - 117) bpm
   BP: 112/60(72) {100/53(71) - 147/91(101)} mmHg
   RR: 26 (24 - 37) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,496 mL
                                                                  1,034 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                    956 mL
                                                                  1,034 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    200 mL
   Urine:
                                                                    350 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
                                                                  2,300 mL
   Balance:
                                                                 -1,154 mL
                                                                    834 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   Decreased breath sounds on the Right, crackles on the left.  No edema,
   mentating well.
   Labs / Radiology
   316 K/uL
   12.3 g/dL
   176 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   15 mg/dL
   105 mEq/L
   138 mEq/L
   36.1 %
   13.7 K/uL
        [image002.jpg]
                            [**2171-12-25**]  04:22 AM
                            [**2171-12-26**]  04:11 AM
                            [**2171-12-27**]  03:07 AM
   WBC
   13.2
   13.2
   13.7
   Hct
   39.2
   36.4
   36.1
   Plt
   280
   297
   316
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   Glucose
   183
   178
   176
   Other labs: PT / PTT / INR:15.1/67.5/1.3, CK / CKMB /
   Troponin-T:23//<0.01, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   61 year old female with a history of type II diabetes, hypertension and
   recently diagnosed stage IIIb to IV non-small cell lung cancer who
   presents with three days of progressive dyspnea found to have large
   right sided pulmonary embolism, pleural effusion and right sided
   collapse.
   .
   Dyspnea:  Likely multifactorial secondary to large right sided
   pulmonary embolism, large right sided pleural effusion, right lung
   collapse.  All findings not present on previous CT scan from late
   [**Month (only) **] when she was diagnosed.  No signs and symptoms of infection
   presently.  Lymphangitic spread of tumor may also be contributing to
   her symptoms. Given the acuity of her presentation suspect a large
   component is related to acute infarction. No indications for lysis at
   this time given that she is hemodynamically stable and BNP and
   troponins are within normal limits.
   - continue heparin
   - follow-up labs from thoracentesis yesterday
   - wean oxygen as tolerated
   .
   Non-small cell lung cancer:  Patient was scheduled to initiate
   chemotherapy shortly.  Now presents with dyspnea, large effusion and
   pulmonary embolism.
   - oncology recs:
   ----Lovenox 1mg/kg q12
   ----transfer to OMED when more stable
   Anxiety:
   -Receiving Xanax PRN anxiety
   Hypertension:
   - holding all antihypertensive [**Doctor Last Name 23**]
   Diabetes:
   - insulin sliding scale
   Hyperlipidemia:
   - continue simvastatin
   FEN: No IVF, replete electrolytes, cardiac, diabetic diet
   Prophylaxis: heparin
   Access: peripherals
   Code:  Full
   Communication: Patient, Husband [**Name (NI) 366**] [**Telephone/Fax (1) 9246**]
   [**Name2 (NI) 1531**]osition: pending clinical improvement

2171-12-28 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Called out to OMED
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Metoprolol - [**2171-12-27**] 03:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-12-28**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 89 (89 - 105) bpm
   BP: 120/89(97) {107/60(72) - 122/89(97)} mmHg
   RR: 20 (19 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,176 mL
                                                                     83 mL
   PO:
                                                                    950 mL
             TF:
   IVF:
                                                                  2,226 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                      0 mL
   Urine:
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,276 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: Middle aged female sitting up in bed, pleasant, NAD
   HEENT: MMM, sclera anicteric, nasal cannula in place
   CV: RRR, no M/R/G
   Lungs: decreased breath sounds at bases right >> left
   [**Last Name (un) **]: NABS, soft, ND, NT, no HSM
   Extrem: No edema/erythema
   Labs / Radiology
   269 K/uL
   10.5 g/dL
   183 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.2 mEq/L
   14 mg/dL
   93 mEq/L
   139 mEq/L
   30.9 %
   9.5 K/uL
         [image002.jpg]
                            [**2171-12-25**]  04:22 AM
                            [**2171-12-26**]  04:11 AM
                            [**2171-12-27**]  03:07 AM
                            [**2171-12-28**]  02:41 AM
   WBC
   13.2
   13.2
   13.7
   9.5
   Hct
   39.2
   36.4
   36.1
   30.9
   Plt
   280
   297
   316
   269
   Cr
   0.6
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   183
   178
   176
   183
   Other labs: PT / PTT / INR:14.9/93.6/1.3, CK / CKMB /
   Troponin-T:23//<0.01, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Pleural fluid:
   PLEURAL ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                     Eos
                                    Macro
                                    Other
   [1][**2171-12-26**] 04:16PM
                                    230*
                                   [**Numeric Identifier 9305**]*
                                     11*
                                     49*
                                     8*
                                     1*
                                     9*
                                   22*[1]
   MORE THAN 12HRS OLD, WAS REC'D TODAY AT 11:36 AM
   PLEURAL CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
                                   Albumin
   [2][**2171-12-26**] 04:16PM
                                     4.5
                                     131
                                     403
                                     3.0
   Assessment and Plan
 ANXIETY
 CANCER (MALIGNANT NEOPLASM), LUNG
 DYSPNEA (SHORTNESS OF BREATH)
 PLEURAL EFFUSION, ACUTE
 PULMONARY EMBOLISM (PE), ACUTE
   61 year old female with a history of type II diabetes, hypertension and
   recently diagnosed stage IIIb to IV non-small cell lung cancer who
   presents with three days of progressive dyspnea found to have large
   right sided pulmonary embolism, pleural effusion and right sided
   collapse.
   .
   Dyspnea:  Likely multifactorial secondary to large right sided
   pulmonary embolism, large right sided pleural effusion, right lung
   collapse.  All findings not present on previous CT scan from late
   [**Month (only) **] when she was diagnosed.  No signs and symptoms of infection
   presently.  Lymphangitic spread of tumor may also be contributing to
   her symptoms. Given the acuity of her presentation suspect a large
   component is related to acute infarction. No indications for lysis at
   this time given that she is hemodynamically stable and BNP and
   troponins are within normal limits.
   - continue heparin
   - wean oxygen as tolerated
   -pleural fluid mostly blood, likely malignant. Will follow up cytology.
   .
   Anemia: Patient has had a significant drop in her HCT today. Will check
   repeat CXR to ensure that she is not bleeding into her pleural fluid,
   guaiac stool. If CXR worsening will get CT to assess for blood in
   pleural fluid.
   -Guaiac stool
   -CXR
   -HCT 1pm
   -Will inform IP of drop in setting of recent thoracentesis
   Non-small cell lung cancer:  Patient was scheduled to initiate
   chemotherapy shortly.  Now presents with dyspnea, large effusion and
   pulmonary embolism.
   - oncology recs:
   ----Lovenox 1mg/kg q12
   ----transfer to OMED when more stable
   Hypokalemia: Replete with oral K sliding scale
   Anxiety:
   -Receiving Xanax PRN anxiety
   Hypertension:
   - holding all antihypertensive [**Doctor Last Name 23**]
   Diabetes:
   - insulin sliding scale
   Hyperlipidemia:
   - continue simvastatin
   FEN: No IVF, replete electrolytes, cardiac, diabetic diet
   Prophylaxis: heparin
   Access: peripherals
   Code:  Full
   Communication: Patient, Husband [**Name (NI) 366**] [**Telephone/Fax (1) 9246**]
   [**Name2 (NI) 1531**]osition: OMED floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2171-12-25**] 02:03 AM
   20 Gauge - [**2171-12-25**] 02:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_21%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_22%22);